US07662910B2
Synthesis of trans-1-(4-Hydroxy-cyclohexyl)-3-tricyclo[3.3.1.13,7]decan-1-yl-urea 1039
To a solution of 1-adamantyl isocyanate (10 g, 56.4 mmol) and trans-4-aminocyclohexanol hydrochloride (10.3 g, 67.7 mmol) in DMF (300 mL) was added triethylamine (6.9 g, 67.7 mmol) at 0° C. The reaction mixture was stirred overnight. The reaction mixture was poured into water, and the resulting precipitates were collected and washed with water. The crude product was recrystallized from methanol/water. Yield: 15.5 g (94% of theory). M.P.: 254° C. 1H NMR (300 MHz, DMSO-d6): δ 5.48 (d. J=9 Hz, 1H), 5.38 (s, 1H), 4.48 (d, J=4.7 Hz, 1H), 3.42-3.28 (m, 1H), 3.28-3.13 (m, 1H), 2.02-1.93 (m, 3H), 1.87-1.68 (m, 9H), 1.63-1.54 (m, 7H), 1.24-0.93 (4H).

reactant | 1-adamantyl isocyanate | 56.4 mmol, 10 g | C12(CC3CC(CC(C1)C3)C2)N=C=O | C11H15NO
reactant | trans-4-aminocyclohexanol hydrochloride | 67.7 mmol, 10.3 g | Cl.N[C@@H]1CC[C@H](CC1)O
reactant | triethylamine | 67.7 mmol, 6.9 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | trans-1-(4-Hydroxy-cyclohexyl)-3-tricyclo[3.3.1.13,7]decan-1-yl-urea | O[C@@H]1CC[C@H](CC1)NC(=O)NC12CC3CC(CC(C1)C3)C2 | C17H28N2O2
